US07230020B2
Reaction of 2,4-dichlorophenylacetic acid (163 mg, 0.79 mmol) in thionyl chloride (2 mL) then with 4-chloro-2-methyl-benzothiazol-5-ylamine (52 mg, 0.26 mmol) in presence of triethylamine (0.5 mL) in THF (3 mL) according to method B gave N-(4-chloro-2-methyl-benzothiazol-5-yl)-2-(2,4-dichloro-phenyl)-acetamide (33 mg, 0.09 mmol, 35% yield) as a white powder after crystallisation in hexane/DCM.

reactant | 2,4-dichlorophenylacetic acid | 0.79 mmol, 163 mg | ClC1=C(C=CC(=C1)Cl)CC(=O)O | C8H6Cl2O2
reactant | 4-chloro-2-methyl-benzothiazol-5-ylamine | 0.26 mmol, 52 mg | ClC1=C(C=CC2=C1N=C(S2)C)N | C8H7ClN2S
reactant | triethylamine | 0.5 mL | C(C)N(CC)CC | C6H15N
solvent | thionyl chloride | 2 mL | S(=O)(Cl)Cl | Cl2OS
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | N-(4-chloro-2-methyl-benzothiazol-5-yl)-2-(2,4-dichloro-phenyl)-acetamide | 0.09 mmol, 33 mg, 35% yield | ClC1=C(C=CC2=C1N=C(S2)C)NC(CC2=C(C=C(C=C2)Cl)Cl)=O | C16H11Cl3N2OS
